US04922021
15.5 g (0.517 moles) of a 80% sodium hydride dispersion, containing 20% of mineral oil, are added in small portions, within 0.5 hours, to a suspension of 100 g (0.5 moles) of N-(2,6-dimethylphenyl)-methanesulfonamide in 800 ml of dry xylene at room temperature, and the mixture is heated then to 130° C. within one hour. 102.5 ml (184.5 g, 0.85 moles) of 1,3-dibromo-butane are added dropwise, within 3 hours, to the mixture at 130°-135° C., and the mixture is stirred at the same temperature for additional 4 hours. Thereafter the mixture is cooled, washed twice with 200 ml of water, twice with 250 ml of 1 n aqueous sodium hydroxide solution, once with 200 ml of water, twice with 200 ml of 1 n aqueous hydrochloric acid solution and finally twice with 200 ml of water, each, dried over anhydrous magnesium sulfate, and the solvent is evaporated under reduced pressure. 109.65 g (66%) of crude 1-[N-(2,6-dimethylphenyl)-methanesulfonamido]-3-bromo-butane are obtained as a dark yellow oil; this substance can be utilized in the next step without purification.

reactant | sodium hydride | [H-].[Na+]
reactant | N-(2,6-dimethylphenyl)-methanesulfonamide | 0.5 moles, 100 g | CC1=C(C(=CC=C1)C)NS(=O)(=O)C | C9H13NO2S
reactant | 1,3-dibromo-butane | 0.85 moles, 102.5 ml, 184.5 g | BrCCC(C)Br | C4H8Br2
solvent | xylene | 800 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1-[N-(2,6-dimethylphenyl)-methanesulfonamido]-3-bromo-butane | 109.65 g, 66% | CC1=C(C(=CC=C1)C)N(S(=O)(=O)C)CCC(C)Br | C13H20BrNO2S
